US04618617
To a solution of 2.44 g of 3-(2-chloroethyl)-5-(3-fluoro-4-phenyl-α-methylbenzyl)-1,2,4-oxadiazole in 40 ml of DMF was added 1.69 g of potassium thioacetate. After stirring at room temperature overnight, the reaction mixture was poured into ice-water. The resultant mixture was extracted with benzene and the organic phase was washed with water, dried over sodium sulfate and evaporated under reduced pressure. The residue was chromatographed over silica gel using benzene to yield 2.62 g of 3-(2-acetylthioethyl)-5-(3-fluoro-4-phenyl-α-methylbenzyl)-1,2,4-oxadiazole as a light brown oil. It was crystallized from diisopropyl ether to give colorless needles, m.p. 56°-57° C.

reactant | 3-(2-chloroethyl)-5-(3-fluoro-4-phenyl-α-methylbenzyl)-1,2,4-oxadiazole | 2.44 g | ClCCC1=NOC(=N1)C(C1=CC(=C(C=C1)C1=CC=CC=C1)F)C | C18H16ClFN2O
reactant | potassium thioacetate | 1.69 g | C(C)(=S)[O-].[K+]
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 3-(2-acetylthioethyl)-5-(3-fluoro-4-phenyl-α-methylbenzyl)-1,2,4-oxadiazole | 2.62 g | C(C)(=O)SCCC1=NOC(=N1)C(C1=CC(=C(C=C1)C1=CC=CC=C1)F)C | C20H19FN2O2S
